US08633183B2
A-92) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid methyl ester
The title compound is synthesized according to general procedure GP4 starting from 2.5 g (9.7 mmol) 4-chloro-6-ethyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine using 2.4 g (11.6 mmol) 3-methoxy-4-methoxycarbonylphenyl boronic acid, 339 mg (0.48 mmol) bis-(triphenylphoshine)palladium(II) chloride, 14 mL (28.2 mmol) of an aqueous 2 M Cs2CO3 and 5 mL MeOH in 50 mL DME. The reaction mixture is stirred for 2 hours at 90° C. The solvent is removed under reduced pressure and the residue is taken up in water and ethylacetate. The aqueous phase is extracted twice with ethylacetate. The combined organic layers are dried over MgSO4 filtered over celite and the solvent is removed under reduced pressure. After drying 3.3 g (89%) of the desired product is obtained.

reactant | 4-chloro-6-ethyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine | 9.7 mmol, 2.5 g | ClC1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC | C13H11ClN4
reactant | Cs2CO3 | 2 M | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeOH | 5 mL | CO | CH4O
reactant | DME | 50 mL | COCCOC | C4H10O2
catalyst | bis-(triphenylphoshine)palladium(II) chloride | 0.48 mmol, 339 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC)OC)=O | C22H20N4O3
